US09238667B2
Synthesis of ethyl 2-benzoylaminocyclohexene-1-carboxylate
In a 2000 ml flask were charged ethyl 2-aminocyclohexene-1-carboxylate (80.0 g, 472.8 mmol), pyridine (37.4 g, 472.8 mmol), and acetonitrile (190 ml), and the mixture was dissolved by heating to 40° C. While keeping the mixture at 40-50° C., a solution (126 ml) of benzyl chloride (63.14 g, 449.2 mmol) in acetonitrile was added dropwise. The mixture was stirred at 50-60° C. for 1.5 hr, cooled, and water (631 ml) was added dropwise at 20-30° C. over 30 min. After stirring at the same temperature for 30 min, the precipitate was collected by filtration and washed with water (631 ml). The obtained powder was dried under reduced pressure at 60° C. yield 119.62 g, 97%.

reactant | ethyl 2-aminocyclohexene-1-carboxylate | 472.8 mmol, 80.0 g | NC1=C(CCCC1)C(=O)OCC | C9H15NO2
reactant | pyridine | 472.8 mmol, 37.4 g | N1=CC=CC=C1 | C5H5N
reactant | benzyl chloride | 449.2 mmol, 126 ml, 63.14 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 631 ml | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 190 ml | C(C)#N | C2H3N
product | ethyl 2-benzoylaminocyclohexene-1-carboxylate | C(C1=CC=CC=C1)(=O)NC1=C(CCCC1)C(=O)OCC | C16H19NO3
